US06479497B1
2-Methoxy-4-morpholinobenzoic Acid
To a stirred solution of 4-bromo-3-methoxy-1-morpholinobenzene (104 mg, 0.382 mmol) in anhydrous tetrahydrofuran (3 mL) at −78° C. was slowly added n-butyl lithium (1.3 M solution in hexanes, 325 μL, 0.420 mmol) under nitrogen. The cooling medium was exchanged with an ice-bath, and the mixture was stirred for 5 min. After cooling again to −78° C., carbon dioxide from evaporation of dry ice was bubbled through the solution for 10 min. A precipitate was formed, and the reaction mixture was allowed to reach room temperature. Diethyl ether and water were added. The mixture was extracted, the layers were separated, and the aqueous layer was acidified to pH 4. The dark blue aqueous solution was extracted several times with diethyl ether and ethyl acetate at pH 4 to pH 6. The combined organic layers were dried (MgSO4), and the solvent was removed in vacuo affording 60 mg (66% yield) of the title compound as a white solid: mp 158-160° C.; EIMS m/z (relative intensity) 237 (100, M30 ).

reactant | 4-bromo-3-methoxy-1-morpholinobenzene | 0.382 mmol, 104 mg | BrC1=C(C=C(C=C1)N1CCOCC1)OC | C11H14BrNO2
reactant | n-butyl lithium | 0.420 mmol, 1.3 M, 325 μL | C(CCC)[Li]
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-Methoxy-4-morpholinobenzoic Acid | 60 mg, 66% yield | COC1=C(C(=O)O)C=CC(=C1)N1CCOCC1 | C12H15NO4
